US05631257
1-(2-Hydroxyethyl)-1-methyl-4-(benzoxazol-2-yl)homo-piperazinium iodide
A 100 mg portion of 2-(4-methyl-1-homopiperazinyl)-benzoxazole was dissolved in 3 ml of THF. Under cooling with ice, 89 mg of 2-iodoethyl alcohol was added to the thus prepared solution, and the reaction was carried out for 1 hour at the same temperature and then for 29 hours at room temperature. The reaction solution was concentrated under a reduced pressure, and 3 ml of acetone was added to the resulting residue. The precipitate thus formed was collected by filtration, washed with acetone and then dried to obtain 143 mg of the title compound.

reactant | 2-(4-methyl-1-homopiperazinyl)-benzoxazole | CN1CCN(CCC1)C=1OC2=C(N1)C=CC=C2 | C13H17N3O
reactant | 2-iodoethyl alcohol | 89 mg | ICCO | C2H5IO
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 1-(2-Hydroxyethyl)-1-methyl-4-(benzoxazol-2-yl)homo-piperazinium iodide | 143 mg | [I-].OCC[N+]1(CCN(CCC1)C=1OC2=C(N1)C=CC=C2)C | InChI=1S/C15H22N3O2.HI/c1-18(11-12-19)9-4-7-17(8-10-18)15-16-13-5-2-3-6-14(13)20-15;/h2-3,5-6,19H,4,7-12H2,1H3;1H/q+1;/p-1
